US06960598B2
d) 7-Trifluoromethyl[1,8]naphthyridin-4-ol
4-Hydroxy-7-trifluoromethyl[1,8]-naphthyridine-3-carboxylic acid (14.0 g, 54.2 mmol) was added in portions to refluxing Dowtherm A (250 mL)—Care! Effervescence!—and the mixture was stirred at reflux for 80 min. The mixture was allowed to cool to room temperature, and a buff coloured solid precipitated from solution. The slurry was diluted with diethyl ether (250 mL) and the solid was separated by filtration, was washed with plenty of diethyl ether and was dried. This was 7-trifluoromethyl[1,8]naphthyridin-4-ol (11.6 g, 100%). δH (360 MHz, d6-DMSO) 6.15 (1H, d, J 7.4), 7.76 (1H, d, J 8.1), 8.06 (1H, d, J 7.4), 8.70 (1H, d, J 8.1). m/z (ES+) 215 [MH]+.

reactant | 4-Hydroxy-7-trifluoromethyl[1,8]-naphthyridine-3-carboxylic acid | 54.2 mmol, 14.0 g | OC1=C(C=NC2=NC(=CC=C12)C(F)(F)F)C(=O)O | C10H5F3N2O3
solvent | Dowtherm A | 250 mL | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | 7-Trifluoromethyl[1,8]naphthyridin-4-ol | FC(C1=CC=C2C(=CC=NC2=N1)O)(F)F | C9H5F3N2O
